US08309581B2
d) 5,6-Difluoro-2-(2-methoxy-phenyl)-1H-benzoimidazole
The title compound was prepared in analogy to Example 19, intermediate c, from 4,5-difluoro-benzene-1,2-diamine (CAS Reg. No. 76179-40-3) and 2-methoxy-benzoic acid (CAS Reg. No. 579-75-9). Brown solid (41%). MS (Turbo Spray): m/z=261.2 (M+H).

reactant | 4,5-difluoro-benzene-1,2-diamine | FC=1C=C(C(=CC1F)N)N | C6H6F2N2
reactant | 2-methoxy-benzoic acid | COC1=C(C(=O)O)C=CC=C1 | C8H8O3
product | 5,6-Difluoro-2-(2-methoxy-phenyl)-1H-benzoimidazole | FC1=CC2=C(NC(=N2)C2=C(C=CC=C2)OC)C=C1F | C14H10F2N2O
